US08012976B2
Ethyl 2,3-bis(4-((dimethylamino)methyl)phenyl)-7-fluoro-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of (E)-4-(4-((dimethylamino)methyl)benzylideneamino)-6-fluoroisobenzofuran-1(3H)-one (1 g, 31.9 mmol) and 4-((dimethylamino) methyl)benzaldehyde (0.52 g, 31.9 mmol) in ethyl propionate (50 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol (sodium (220 mg, 95.8 mmol) in ethanol (20 mL)) was added dropwise. After the addition, the mixture was stirred at room temperature for 2 hr. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (100 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product, which was purified by chromatography (silica gel, dichloromethane/methanol=10:1 to 20:3) to give the title (520 mg, yield 33%). LC-MS (ESI) m/z: 503.

reactant | (E)-4-(4-((dimethylamino)methyl)benzylideneamino)-6-fluoroisobenzofuran-1(3H)-one | 31.9 mmol, 1 g | CN(C)CC1=CC=C(\C=N\C2=C3COC(C3=CC(=C2)F)=O)C=C1 | C18H17FN2O2
reactant | 4-((dimethylamino) methyl)benzaldehyde | 31.9 mmol, 0.52 g | CN(C)CC1=CC=C(C=O)C=C1 | C10H13NO
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 95.8 mmol, 20 mL, 220 mg | C(C)O | C2H6O
solvent | ethyl propionate | 50 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2,3-bis(4-((dimethylamino)methyl)phenyl)-7-fluoro-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | yield 33% | CN(C)CC1=CC=C(C=C1)C1NC=2C=C(C=C(C2C(C1C1=CC=C(C=C1)CN(C)C)=O)C(=O)OCC)F | C30H34FN3O3
